US08426408B2
2-(4-nitro-1H-pyrazol-1-yl)ethanol
A solid mixture of 4-nitro-1H-pyrazole (1 g, 8.84 mmol), 1,3-dioxolan-2-one (3.89 g, 44.2 mmol) and cesium carbonate (2.88 g, 8.84 mmol) was suspended in 20 ml dimethylformamide and the resulting suspension was slowly heated to 100° C. overnight. The mixture was added to 100 ml water and 40 ml ethyl acetate; the separated aqueous layer was extracted with ethyl acetate (30 ml), and the combined organic layers were washed with brine (30 ml), dried with magnesium sulfate, filtered and concentrated. The residue was flash chromatographed (50 mm; 2% methanol/methylene chloride then 4% methanol/methylene chloride) to give the title compound with some residual DMF.

reactant | 4-nitro-1H-pyrazole | 8.84 mmol, 1 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1,3-dioxolan-2-one | 44.2 mmol, 3.89 g | O1C(OCC1)=O | C3H4O3
reactant | cesium carbonate | 8.84 mmol, 2.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-nitro-1H-pyrazol-1-yl)ethanol | [N+](=O)([O-])C=1C=NN(C1)CCO | C5H7N3O3
